US06603029B1
76 g (0.5 mol) of 3-methoxy-4-hydroxybenzaldehyde were placed in a four-necked flask together with 228 g of dimethylformamide and 82.8 g (0.6 mol) of potassium carbonate. 66.4 g (0.525 mol) of benzyl chloride was added dropwise at a temperature of 60° C. for one hour. After the addition, the mixture was stirred at a temperature of 60° C. for five hours. The resulting reaction mixture was washed with 190 g of toluene and 330 g of water. 270 g of the solvent were removed by distillation under reduced pressure of 70 mmHg and then 265 g of n-heptane and 80 g of toluene were added to the distillation residue and the separated crystals were collected by filtration to provide 102.6 g of 3-methoxy-4-benzyloxybenzaldehyde as white crystals in a yield of 84.8%.

reactant | 3-methoxy-4-hydroxybenzaldehyde | 0.5 mol, 76 g | COC=1C=C(C=O)C=CC1O | C8H8O3
reactant | potassium carbonate | 0.6 mol, 82.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 0.525 mol, 66.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 228 g | CN(C=O)C | C3H7NO
product | 3-methoxy-4-benzyloxybenzaldehyde | 102.6 g, yield of 84.8% | COC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C15H14O3
